Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])=[C:6][H:7].[H:1][C:2]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.4503915962799998
[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8])[O:10][H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[O:10][H:11],-4.32431755941
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.42182490747
[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:9][H:10].[H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.37846012497
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[O:1][C:2][C:3].[O:4]=[C:5]([H:6])[H:7],1.2405664586
[C:1]#[C:2][C:3]([H:4])[O:5][C:6][O:7][H:8]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6][O:7][H:8],3.1958584773000003
[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1][C:2][C:3],4.18925791162
[C:4][O:5][C:6]#[C:7][H:8].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7][H:8],-2.68181904546
[H:15].[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.188565722830002
[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:4].[O:1][O:2]/[C:3](=[C:5](/[H:6])[C:7][H:8])[C:9]([H:10])([H:11])[H:12],2.9875456740400006
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2],6.08891315377
[H:1][C:2]=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.11857096854
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[O:7])[O:9][H:10].[H:8]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6][O:7][H:8])[O:9][H:10],-1.77325653649
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-0.74407647661
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],4.9928326075300005
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.7275071463
[H:1][C:2]([H:3])[C:4](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-1.4938759378400002
[H:12].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.97880235966
[H:1][O:2][C:3]#[C:4][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-2.39536456209
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],1.0648584156
[C:1]#[C:2][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[C:3]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-6.32956847529
[H:9].[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.75432940608
[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.49877085365
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.75239099197
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-3.2922974955
[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-0.3594716384
[C:1][C:2](=[O:3])[O:4][C:5][H:6]>>[C:1](=[C:2]=[O:3])[O:4][C:5][H:6],-1.76195009842
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],3.78586664042
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:7]([H:8])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:6][C:9][H:10],2.71338957335
[H:12].[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.9641492701700003
